US05200553
(3-Butyroxy)phthalide
To a solution of butyric acid (1.10 g., 12.5 mmol.) in dimethylformamide (13 ml.) is added triethylamine (1.78 g., 17.6 mmol.) and 3-chlorophthalide (2.10 g., 12.5 mmol.). The reaction mixture is stirred for 8 days, ethyl acetate (40 ml.) is added and the mixture is filtered. The filtrate is washed with 4×15 ml. water, dried over magnesium sulfate, filtered and concentrated in vacuo. Yield 2.28 g. (82.8%). 1H-NMR ppm (CDCl3): 7.93 (dd, J=0.7. 7.5 Hz, 1H), 7.76 (dt, J=1.1, 7.5 Hz, 1H), 7.65 (dt, J=1.0, 8.2 Hz, 1H), 7.58 (dd, J=0.7, 8.2 Hz, 1H), 7.46 (s, 1H), 2.42 (t, J=7.4 Hz, 2H), 1.72 (sextet, J=7.4 Hz, 2H), 0.99 (t, J=7.4 Hz, 3H).

reactant | butyric acid | 12.5 mmol, 1.10 g | C(CCC)(=O)O | C4H8O2
reactant | triethylamine | 17.6 mmol, 1.78 g | C(C)N(CC)CC | C6H15N
reactant | 3-chlorophthalide | 12.5 mmol, 2.10 g | ClC1OC(=O)C2=CC=CC=C12 | C8H5ClO2
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | (3-Butyroxy)phthalide | C(CCC)(=O)OC1OC(=O)C2=CC=CC=C12 | C12H12O4
